US07399780B2
3-{5-[(4-Methylpiperazin-1-yl)sulfonyl]pyridin-2-yl}-5-(2-methyl-1,3-thiazol-4-yl)-1H-indol-2-ol hydrochloride
The title compound was prepared as described for Example 101 using 1-[(6-chloropyridin-3-yl)sulfonyl]4-methylpiperazine (described in: Thunus L., Annales Pharmaceutiques Francaises 1977, 35, 197-203) and 5-(2-methyl-1,3-thiazol-4-yl)-1,3-dihydro-2H-indol-2-one. The crude product was purified on a silica gel column using chloroform/methanol/conc NH3(aq), (50:3:0.3), as the eluent. The base was dissolved in chloroform/methanol and converted to the hydrochloride salt using HCl in diethyl ether (1 M). Yield: 35% of the title compound: MS (ES) m/z 470 (M++1).

reactant | 1-[(6-chloropyridin-3-yl)sulfonyl]4-methylpiperazine | ClC1=CC=C(C=N1)S(=O)(=O)N1CCN(CC1)C | C10H14ClN3O2S
reactant | 5-(2-methyl-1,3-thiazol-4-yl)-1,3-dihydro-2H-indol-2-one | CC=1SC=C(N1)C=1C=C2CC(NC2=CC1)=O | C12H10N2OS
product | 3-{5-[(4-Methylpiperazin-1-yl)sulfonyl]pyridin-2-yl}-5-(2-methyl-1,3-thiazol-4-yl)-1H-indol-2-ol hydrochloride | Yield: 35% | Cl.CN1CCN(CC1)S(=O)(=O)C=1C=CC(=NC1)C1=C(NC2=CC=C(C=C12)C=1N=C(SC1)C)O | InChI=1S/C22H23N5O3S2.ClH/c1-14-24-20(13-31-14)15-3-5-18-17(11-15)21(22(28)25-18)19-6-4-16(12-23-19)32(29,30)27-9-7-26(2)8-10-27;/h3-6,11-13,25,28H,7-10H2,1-2H3;1H
